US08314098B2
(Step 4): N-(3-Methyl-benzylidene)-N′-(2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl)-hydrazine (Compound 79)
There was dissolved, in ethanol (2 mL), (2-methyl-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine (24.7 mg, 0.0995 mM), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (12.9 μL, 0.109 mM) were added to the solution and the resulting mixture was stirred at room temperature for 2 hours. This reaction liquid was filtered and the resulting solid was washed with methanol to thus give the title compound (29.6 mg, yield: 85%).

reactant | (2-methyl-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0995 mM, 24.7 mg | CC1=NN2C(N=C(C=C2N2CCOCC2)NN)=C1 | C11H16N6O
reactant | acetic acid | 0.087 mM, 5.0 μL | C(C)(=O)O | C2H4O2
reactant | 3-methyl-benzaldehyde | 0.109 mM, 12.9 μL | CC=1C=C(C=O)C=CC1 | C8H8O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-Methyl-benzylidene)-N′-(2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl)-hydrazine | 29.6 mg, yield: 85% | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C)C=CC1 | C19H22N6O
